US05021420
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (5.6 g), triethylamine (2.8 cc) and 4-(4-bromophenyl)piperazine (4.8 g) in toluene (60 cc). The mixture is heated for 8 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is continued for 8 hours at this temperature. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, and recrystallization from boiling acetonitrile (40 cc), 2-{3-[4-(4-bromophenyl)-1-piperazinyl]propyl}naphtho[1,8-cd ]isothiazole 1,1-dioxide (4.3 g) is obtained, m.p. 149° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 5.6 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 2.8 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(4-bromophenyl)piperazine | 4.8 g | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
solvent | toluene | 60 cc | C1(=CC=CC=C1)C | C7H8
product | 2-{3-[4-(4-bromophenyl)-1-piperazinyl]propyl}naphtho[1,8-cd ]isothiazole 1,1-dioxide | 4.3 g | BrC1=CC=C(C=C1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H24BrN3O2S
